US07799805B2
N-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-acetamide
AcCl (0.547 mL, 7.70 mmol) was added to a sol. of 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzylamine (2.00 g, 7.00 mmol) and DIPEA (4.80 mL, 28.0 mmol) in CH2Cl2 (70 mL) at 0° C. The mixture was stirred for 1 h while warming up to rt. CH2Cl2 (30 mL) was added, and the mixture was washed with aq. sat. NH4Cl (2×), aq. 1M NaOH (1×) and brine (1×). The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 60:40) yielded the title compound (2.10 g, 91%). LC-MS: tR=1.07 min; ES+: 369.19.

reactant | AcCl | 7.70 mmol, 0.547 mL | C(=O)(C)Cl | C2H3ClO
reactant | 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzylamine | 7.00 mmol, 2.00 g | C(C)(C)(C)[SiH2]OC(C=1C=C(CN)C=CC1Cl)(C)C | C14H24ClNOSi
reactant | DIPEA | 28.0 mmol, 4.80 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-acetamide | 2.10 g, 91% | C(C)(C)(C)[SiH2]OC(C=1C=C(CNC(C)=O)C=CC1Cl)(C)C | C16H26ClNO2Si
